US05233010
This example illustrates the direct coupling of benzamide and nitrobenzene to give 4'-nitrobenzanilide.

reactant | benzamide | C(C1=CC=CC=C1)(=O)N | C7H7NO
reactant | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 4'-nitrobenzanilide | [N+](=O)([O-])C1=CC=C(NC(C2=CC=CC=C2)=O)C=C1 | C13H10N2O3
